US06797344B2
A mixture of 20.5 g (0.05 mol) BAPP, 5.4 g (0.025 mol) PMDA, and 7.4 g (0.025 mol) BPDA in 133 g NMP was reacted at room temperature for 20 hours. Then, 500 g NMP was added to dilute the reaction to obtain a polyamic acid solution with a reduced viscosity of 1.15 dl/g. The polyamic acid solution is spin coated (at 3500 rpm) onto two glass substrates having transparent electrodes. The coatings were heated at 250° C. for 60 minutes to form polyimide resin films on the substrates. After cooling the substrates, the films were rubbed and oriented by a brush to form alignment films. Then, the two substrates were assembled to form a parallel liquid crystal cell by a 50-micrometer spacer agent. Finally, liquid crystal (ZL1-2293, manufactured by Merck Company) was injected between the two substrates. The cell rotated between crossed nicols. It is satisfactory to tell the lightness and darkness apart. The pre-tilt angle of the alignment film is 3.0 as measured by Tilt Angle Tester.

reactant | BAPP | 0.05 mol, 20.5 g | C1CN(CCN1CCCN)CCCN | C10H24N4
reactant | PMDA | 0.025 mol, 5.4 g | C1=C2C(=CC3=C1C(=O)OC3=O)C(=O)OC2=O | C10H2O6
reactant | BPDA | 0.025 mol, 7.4 g | C1=CC2=C(C=C1C3=CC4=C(C=C3)C(=O)OC4=O)C(=O)OC2=O | C16H6O6
reactant | NMP | 133 g | CN1CCCC1=O | C5H9NO
reactant | NMP | 500 g | CN1CCCC1=O | C5H9NO
product | polyimide resin | CC1(CC(C2=C1C=C(C=C2)N)(C)C3=CC=C(C=C3)N)C.C1=CC2=C(C=C1C(=O)C3=CC4=C(C=C3)C(=O)OC4=O)C(=O)OC2=O | InChI=1S/C18H22N2.C17H6O7/c1-17(2)11-18(3,12-4-6-13(19)7-5-12)15-9-8-14(20)10-16(15)17;18-13(7-1-3-9-11(5-7)16(21)23-14(9)19)8-2-4-10-12(6-8)17(22)24-15(10)20/h4-10H,11,19-20H2,1-3H3;1-6H
